US07960483B2
(1) Synthesis of 1,3-bis(4-glycidyloxy-3-cyclohexylphenyl) adamantane (BCHP13-EPO)
In a mixed solvent composed of 14 mL of MIBK and 30 mL of DMSO, 10 g (20.6 mmol) of 1,3-bis(4-hydroxy-3-cyclohexylphenyl)adamantane (product of Honshu Chemical Industry Co., Ltd.) were dissolved, to which 15 g of epichlorohydrin were added. The mixture was then heated to 45° C. with stirring, added with 2.0 g (50 mmol) of sodium hydroxide over 0.5 hour, and further stirred for 6 hours. Thereafter, the obtained reaction liquid was cooled to room temperature and added with 50 mL of MIBK. The organic layer was washed with 50 mL of pure water, then one time with 50 mL of 0.1 mol/L hydrochloric acid and twice with 50 mL of pure water. The organic phase was separated and concentrated to give 12.2 g of yellow viscous liquid containing BCHP13-EPO.

reactant | 1,3-bis(4-hydroxy-3-cyclohexylphenyl)adamantane | 20.6 mmol, 10 g | OC1=C(C=C(C=C1)C12CC3(CC(CC(C1)C3)C2)C2=CC(=C(C=C2)O)C2CCCCC2)C2CCCCC2 | C34H44O2
reactant | epichlorohydrin | 15 g | C(Cl)C1CO1 | C3H5ClO
reactant | sodium hydroxide | 50 mmol, 2.0 g | [OH-].[Na+]
reactant | MIBK | 50 mL | CC(C)CC(=O)C | C6H12O
reactant | MIBK | 14 mL | CC(C)CC(=O)C | C6H12O
solvent | DMSO | 30 mL | CS(=O)C | C2H6OS
product | 1,3-bis(4-glycidyloxy-3-cyclohexylphenyl) adamantane | 12.2 g | C(C1CO1)OC1=C(C=C(C=C1)C12CC3(CC(CC(C1)C3)C2)C2=CC(=C(C=C2)OCC2CO2)C2CCCCC2)C2CCCCC2 | C40H52O4
